US04335141
2-[(N-Methyl-N-n-octadecylamino)methyl]-2-propenenitrile
To a mixture of cyanacetic acid (2.6 g., 0.03 mole) and N-methyl-N-octadecylamine (8.4 g., 0.03 mole) in 25 ml. of dioxane at room temperature is added 38% aqueous formaldehyde (5.4 g., 0.06 mole) dropwise over about 2 minutes. The resultant mixture is then heated gently in a hot water bath until a clear solution is obtained and carbon dioxide is released vigorously (ca. 60° C. bath). When the evolution of carbon dioxide is complete, the mixture is allowed to cool, and the volatiles removed in vacuo to yield 9.2 g. of the substituted propenenitrile as an off-white solid.

reactant | cyanacetic acid | 0.03 mole, 2.6 g | C(#N)CC(=O)O | C3H3NO2
reactant | N-methyl-N-octadecylamine | 0.03 mole, 8.4 g | CNCCCCCCCCCCCCCCCCCC | C19H41N
reactant | formaldehyde | 0.06 mole, 5.4 g | C=O | CH2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[(N-Methyl-N-n-octadecylamino)methyl]-2-propenenitrile | CN(CCCCCCCCCCCCCCCCCC)CC(C#N)=C | C23H44N2
